US07943669B2
{2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-hydroxy-phenylsulfanyl]-phenoxy}-acetic Acid
{2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-hydroxy-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (50 mg; 0.11 mmol) was dissolved in ethanol (6 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 1 h, acidified with 1 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness and purified by prep. HPLC (method B). Yield: 36 mg. HPLC-MS: m/z: 445.1 (M+); Rt: 2.44 min.

reactant | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-hydroxy-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.11 mmol, 50 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)O)C#CC1=CC=C(C=C1)Cl)Cl)=O | C24H18Cl2O4S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-hydroxy-phenylsulfanyl]-phenoxy}-acetic Acid | ClC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)O)C#CC1=CC=C(C=C1)Cl | C22H14Cl2O4S
